US07396598B2
That is, as shown in the reaction scheme below, (3-methoxyphenyl)magnesium bromide was synthesized from 22.4 g (120 mmol) of 3-bromoanisole with 3.4 g of magnesium in dry tetra hydrofuran (THF) in an argon stream by a conventional manner. This was slowly added to a dry THF solution of 15.8 g (100 mmol) of 2-bromopyridine and 1.8 g of (1,2-bis(diphenylphosphino)-ethane)dichloronickel (II) (Ni(dppe)Cl2) and the mixture was stirred at 50° C. for 1 hour. After adding 250 ml of 5% hydrochloric acid aqueous solution to the reaction mixture, the reaction mixture was extracted with chloroform to obtain a target substance and the organic layer was distilled under reduced pressure. 17.4 g (93.9 mmol) of 2-(3-methoxyphenyl)pyridine (3-MeO—PPy) was obtained as a color less transparent liquid. Identification was performed by CHN elementary analysis and 1H-NMR.

reactant | (3-methoxyphenyl)magnesium bromide | COC=1C=C(C=CC1)[Mg]Br
reactant | 3-bromoanisole | 120 mmol, 22.4 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | magnesium | 3.4 g | [Mg] | Mg
reactant | 2-bromopyridine | 100 mmol, 15.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | tetra hydrofuran | O1CCCC1 | C4H8O
product | 2-(3-methoxyphenyl)pyridine | 93.9 mmol, 17.4 g | COC=1C=C(C=CC1)C1=NC=CC=C1 | C12H11NO
